US03950528
3-Amino-1-(3,4-methylenedioxybenzyl)-pyrazol-5-one ##SPC26##
From 17.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and 16.6 g of 3,4-methylenedioxybenzylhydrazine, analogously to the procedure described in Example 1. 12.1 g of the compound identified above, as colorless crystals of melting point 218°, corresponding to 52% of theory, are obtained.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 3,4-methylenedioxybenzylhydrazine | 16.6 g | C1OC=2C=C(CNN)C=CC2O1 | C8H10N2O2
product | 3-Amino-1-(3,4-methylenedioxybenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC2=C(C=C1)OCO2 | C11H11N3O3
